US07615642B2
Step F: N-[2-tert-Butyl-1-(tetrahydro-2H-pyran-4-ylmethyl)-1H-benzimidazol-5-yl]acetamide
N-{5-(acetylamino)-2-[(tetrahydro-2H-pyran-4-ylmethyl)amino]phenyl}-2,2-dimethylpropanamide (33.1 g, 95.3 mmol) was dissolved in AcOH (250 mL). The solution was heated at 120° C. for 8 h. Upon evaporation of the solvent, the residue was dissolved in EtOAc (500 mL), washed with 2N NaOH (3×50 mL), brine (50 mL) and dried over anhydrous Na2SO4. The crude product was recrystallized from EtOAc. Yield: 29.0 g (92%). 1H NMR (400 MHz, CHLOROFORM-D): δ 1.48-1.54 (m, 4 H), 1.56 (s, 9 H), 2.20 (s, 3 H), 2.24-2.35 (m, 1 H), 3.28-3.35 (m, 2 H), 3.96 (t, J=2.83 Hz, 1 H), 3.99 (t, J=3.03 Hz, 1 H), 4.19 (d, J=7.42 Hz, 2H), 7.27 (d, J=8.59 Hz, 1 H), 7.34 (br.s, 1 H), 7.57 (dd, J=8.79, 1.95 Hz, 1 H), 7.67 (d, J=1.95 Hz, 1 H); MS (ESI) (M+H)+=330.04.

reactant | N-{5-(acetylamino)-2-[(tetrahydro-2H-pyran-4-ylmethyl)amino]phenyl}-2,2-dimethylpropanamide | 95.3 mmol, 33.1 g | C(C)(=O)NC=1C=CC(=C(C1)NC(C(C)(C)C)=O)NCC1CCOCC1 | C19H29N3O3
solvent | AcOH | 250 mL | CC(=O)O | C2H4O2
product | N-[2-tert-Butyl-1-(tetrahydro-2H-pyran-4-ylmethyl)-1H-benzimidazol-5-yl]acetamide | C(C)(C)(C)C1=NC2=C(N1CC1CCOCC1)C=CC(=C2)NC(C)=O | C19H27N3O2
